US04804662
N-[2-(Diethylamino)ethyl]-4-(1H-imidazol-1-yl)-N-(1naphthalenyl)benzamide
A mixture of 6.0 g (16.5 mmol) N-[2-(diethylamino)ethyl]-4-fluoro-N-(1-naphthalenyl)benzamide, 1.68 g (24.7 mmol) of imidazole, 4.55 g (33 mmol) of anhydrous potassium carbonate and 6.0 mL of dimethylsulfoxide is heated to 150° C. for 18 hr. After this time, the reaction mixture is dissolved in 150 mL water, 100 mL methylene chloride and 40 mL of methanol. The organic is dried over sodium sulfate, filtered and the solvent distilled in vacuo. The residue is recrystallized from acetone to provide the title compound.

reactant | N-[2-(diethylamino)ethyl]-4-fluoro-N-(1-naphthalenyl)benzamide | 16.5 mmol, 6.0 g | C(C)N(CCN(C(C1=CC=C(C=C1)F)=O)C1=CC=CC2=CC=CC=C12)CC | C23H25FN2O
reactant | imidazole | 24.7 mmol, 1.68 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 33 mmol, 4.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 6.0 mL | CS(=O)C | C2H6OS
solvent | water | 150 mL | O | H2O
solvent | methanol | 40 mL | CO | CH4O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(Diethylamino)ethyl]-4-(1H-imidazol-1-yl)-N-(1naphthalenyl)benzamide | C(C)N(CCN(C(C1=CC=C(C=C1)N1C=NC=C1)=O)C1=CC=CC2=CC=CC=C12)CC | C26H28N4O
